US04528296
Following the procedure of Example 2, but substituting an equivalent amount of ethyl 6-(2-acetylthiomethyl-propionamido)-nicotinate, obtained as disclosed in Example 6, for methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate, ethyl 6-(2-mercaptomethyl-propionamido)-nicotinate is obtained; m.p. 58°-61° C. from petroleum ether.

reactant | ethyl 6-(2-acetylthiomethyl-propionamido)-nicotinate | C(C)(=O)SCC(C(=O)NC1=NC=C(C(=O)OCC)C=C1)C | C14H18N2O4S
reactant | methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate | C(C)(=O)SCC(C(=O)NC1=C(C(=O)OC)C=CC=N1)C | C13H16N2O4S
product | ethyl 6-(2-mercaptomethyl-propionamido)-nicotinate | SCC(C(=O)NC1=NC=C(C(=O)OCC)C=C1)C | C12H16N2O3S
